US07053060B2
To a solution of 4-(2-benzyloxybenzyl)benzyl alcohol (1.0 g) in dichloromethane (50 mL) was added manganese (II) oxide (10 g), and the mixture was stirred at room temperature for 3 hours. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-(2-benzyloxybenzyl)benzaldehyde (0.97 g).

reactant | 4-(2-benzyloxybenzyl)benzyl alcohol | 1.0 g | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(CO)C=C2)C=CC=C1 | C21H20O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | manganese (II) oxide | 10 g | [O-2].[Mn+2]
product | 4-(2-benzyloxybenzyl)benzaldehyde | 0.97 g | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(C=O)C=C2)C=CC=C1 | C21H18O2
